US04632934
A mixture of 13.6 g of imidazole, 43.2 g of p-bromomethylnitrobenzene and 55.2 g of anhydrous potassium carbonate in 300 ml of dry toluene was refluxed for 18 hours. After concentration under reduced pressure, 200 ml of dichloromethane was added to the residue and insoluble salts were filtered off. The filtrate was evaporated and the residue was chromatographed on silica gel using dichloromethane-ethanol (20:1 by volume) to give 27.9 g of p-(1-imidazolylmethyl)nitrobenzene as pale yellow platelets. Then, a solution of 2.0 g of this product in 50 ml of ethanol was hydrogenated over 0.2 g of palladium on carbon at room temperature under a hydrogen pressure of 4 atms. After filtration and evaporation, the residual solid was recrystallized from ethanol-diethyl ether-petroleum ether to give 1.4 g of p-(1-imidazolylmethyl)aniline as colorless needles. M.P.: 134°-137° C.

reactant | imidazole | 13.6 g | N1C=NC=C1 | C3H4N2
reactant | p-bromomethylnitrobenzene | 43.2 g | BrCC1=CC=C(C=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | potassium carbonate | 55.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | p-(1-imidazolylmethyl)nitrobenzene | 27.9 g | N1C(=NC=C1)CC1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O2
